* Y:\dev\project\eurorack\ltspice-misc\2023-01-11 Attenuverter.asc
V1 V+ 0 15
V2 0 V- 15
V3 cv 0 0
XU1 N001 N002 V+ V- out TL072
R1 N001 0 {100k*attenuverter}
R2 cv N001 {100k*(1-attenuverter)}
R3 N002 cv 100k
R4 N001 0 {Rnonlinearity}
R5 cv N001 {Rnonlinearity}
R6 out N002 100k
R7 out 0 10k
* .param attenuverter=0.75
.step param attenuverter 0.02 0.98 0.002
.param Rnonlinearity=56k
.dc V3 -5 5 0.1
.lib Z:\home\lennart\nextcloud\msc\ltspice\models\TL072.301
.backanno
.end
