* Y:\dev\project\eurorack\ltspice-misc\2023-01-12 LM13700 linearity.asc
V1 V+ 0 12
V2 0 V- 12
XU1 N001 N002 in_att 0 out_ota V- out_ota out V+ LM13700/NS
V3 in 0 0
I1 V+ N001 100µ
R1 out V- 10k
R2 in_att in 99k
R3 in_att 0 1k
R4 out_ota 0 33k
R5 V+ out_ota 270k
R6 V+ N002 {Rdiode}
.dc V3 -5 5 0.01
.step dec param Rdiode 1k 10meg 2
.lib Z:\home\lennart\nextcloud\msc\ltspice\models\LM13700.MOD
.backanno
.end
